US04521537
The compound 4-(2-fluorophenylmethoxy)-1-methyl-4-(1,3-dithian-2-yl)piperidine hydrochloride (5 g, 13.1 mmole) was suspended in tetrahydrofuran (50 ml), and water (5 ml) was added to completely dissolve the compound. Red mercuric oxide (8.6 g, 39.7 mmole) was added to the solution. After a complex was formed, BF3 etherate (32.3 ml, 39.7 mmole) was added dropwise to the stirred suspension under nitrogen and reaction was taken to completion as indicated by TLC. The reaction mixture was diluted with an equal volume of ether and filtered. The filtrate was treated with saturated potassium carbonate to form a precipitate. The mixture was extracted with ethyl acetate, and the ethyl acetate extracts were washed with saturated brine. The washed extract was dried over anhydrous potassium carbonate, filtered and taken to dryness. The residue was dissolved in ether from which the hydrochloride was precipitated. The resulting material was recrystallized from ethyl acetate/ethanol. After filtration, washing with ethyl acetate and ether, the product was air-dried to yield 1.3 g (4.5 mmole, 36.9%) of 4-(2-fluorophenylmethoxy)-1-methyl-4-oxomethyl piperidine hydrochloride. MS (MH+ =252), NMR (CDCl3) and IR (CHCl3) were consistent with the structure, mp=164°-167° C.

reactant | 4-(2-fluorophenylmethoxy)-1-methyl-4-(1,3-dithian-2-yl)piperidine hydrochloride | 13.1 mmole, 5 g | Cl.FC1=C(C=CC=C1)COC1(CCN(CC1)C)C1SCCCS1
reactant | water | 5 ml | O | H2O
reactant | BF3 | 39.7 mmole, 32.3 ml | B(F)(F)F | BF3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-(2-fluorophenylmethoxy)-1-methyl-4-oxomethyl piperidine hydrochloride | 4.5 mmole, 1.3 g, 36.9% | Cl.FC1=C(C=CC=C1)COC1(CCN(CC1)C)C=O | InChI=1S/C14H18FNO2.ClH/c1-16-8-6-14(11-17,7-9-16)18-10-12-4-2-3-5-13(12)15;/h2-5,11H,6-10H2,1H3;1H
